US07001887B2
To a solution of N-(benzylsulfonyl)-D-isoleucyl-L-methionine methyl ester (6.4 g, 14.9 mmol) in ethanol (30 ml), 2N aqueous sodium hydroxide (30 ml) was added and stirred at room temperature. After 1 hour, the reaction mixture was adjusted to pH 2 with 2N aqueous hydrogen chloride and then extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine and then dried over anhydrous magnesium sulfate. Magnesium sulfate was filtered off and the filtrate was concentrated under reduced pressure to give N-(benzylsulfonyl)-D-isoleucyl-L-methionine (6.2 g, 14.9 mmol; yield 100%).

reactant | N-(benzylsulfonyl)-D-isoleucyl-L-methionine methyl ester | 14.9 mmol, 6.4 g | COC([C@@H](NC([C@H](NS(=O)(=O)CC1=CC=CC=C1)[C@H](C)CC)=O)CCSC)=O | C19H30N2O5S2
reactant | hydrogen chloride | 2N | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 2N, 30 ml | [OH-].[Na+]
product | N-(benzylsulfonyl)-D-isoleucyl-L-methionine | 14.9 mmol, 6.2 g, yield 100% | C(C1=CC=CC=C1)S(=O)(=O)N[C@H]([C@H](C)CC)C(=O)N[C@@H](CCSC)C(=O)O | C18H28N2O5S2
